US05510345
Preparation of 2-(2,2-dimethylpropylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine
The reaction of 2-(2,2-dimethylpropylamino)-4-chloro-6-pyrrolidinopyrimidine with piperazine as described in Example 17 leads to the title compound in a yield of 76%, m.p.: 118°-120° C.

reactant | 2-(2,2-dimethylpropylamino)-4-chloro-6-pyrrolidinopyrimidine | CC(CNC1=NC(=CC(=N1)Cl)N1CCCC1)(C)C | C13H21ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(2,2-dimethylpropylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine | yield of 76% | CC(CNC1=NC(=CC(=N1)N1CCNCC1)N1CCCC1)(C)C | C17H30N6
